US08466191B2
methyl 3-amino-3-(3-ethoxy-4-methoxy-phenyl)propionate
The title compound was prepared following the method for preparing Intermediate 6 except that 3-amino-3-(3,4-dimethoxy-phenyl)propionic acid was substituted with 3-amino-3-(3-ethoxy-4-methoxy-phenyl)propionic acid. 1H NMR (CDCl3): δ 6.77-6.86 (m, 3H), 4.30 (s, 1H), 3.85 (t, 2H, J=5 Hz), 3.79 (s, 3H), 3.62 (s, 3H), 2.59 (s, 2H), 1.85 (d, 2H, J=5 Hz), 1.40 (s, 3H).

reactant | 3-amino-3-(3,4-dimethoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC | C11H15NO4
reactant | 3-amino-3-(3-ethoxy-4-methoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C12H17NO4
product | methyl 3-amino-3-(3-ethoxy-4-methoxy-phenyl)propionate | NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OCC | C13H19NO4
